US04576732
4'-n-Decyloxy-4-hydroxybiphenyl was synthesized by monoalkylating commercially available 4,4'-dihydroxybiphenyl in the presence of an equivalent amount of n-decyl p-toluenesulfonate and an akali (m.p. 149° C.).

reactant | 4,4'-dihydroxybiphenyl | OC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | n-decyl p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OCCCCCCCCCC)C | C17H28O3S
product | 4'-n-Decyloxy-4-hydroxybiphenyl | C(CCCCCCCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)O | C22H30O2
